US08202865B2
Step 1: Methyl 2-hydroxy-2′-methyl-1,1′-biphenyl-4-carboxylate
To a mixture of methyl 4-bromo-3-hydroxybenzoate (25 g, 0.108 mol) and o-tolylboronic acid (22 g, 0.162 mol) in a toluene (500 mL) water (100 mL) mixture, was added anhydrous potassium carbonate (44 g, 0.324 mol) followed by tetrakis (triphenylphosphine) palladium (0) (6.25 g, 0.054 mol). The reaction mixture was degassed with N2 and heated at 110° C. for 12 h. After cooling to RT, the reaction mixture was filtered through a celite pad that was washed further with ethyl acetate. Combined filtrates were washed with 10% solution of NaHCO3, water and brine solution. The solvents were dried over Na2SO4 and evaporated under vacuum. The residue was purified by chromatography (pet ether/EtOAc as an eluent) to afford the title compound as pale yellow solid (20 g, 77%). 1H NMR (DMSO-d6, 400 MHz) δ 9.85 (1H, s), 7.52 (1H, s), 7.44-7.46 (1H, m), 7.20-7.25 (3H, m), 7.14-7.16 (1H, m), 7.09-7.11 (1H, m), 3.84 (3H, s), 2.09 (3H, s).

reactant | methyl 4-bromo-3-hydroxybenzoate | 0.108 mol, 25 g | BrC1=C(C=C(C(=O)OC)C=C1)O | C8H7BrO3
reactant | o-tolylboronic acid | 0.162 mol, 22 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | potassium carbonate | 0.324 mol, 44 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.054 mol, 6.25 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-hydroxy-2′-methyl-1,1′-biphenyl-4-carboxylate | 20 g, 77% | OC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C | C15H14O3
